US06787650B1
N-[3-(4-Benzyl-1-piperidinyl)propyl]benzylamine
A solution of acrolein (90%, 3.2 g, 57 mmol) in THF (2 ml) was dropwise added to a solution of 4-benzylpiperidine (10.0 g, 57 mmol) and DBU (85 μl, 0.57 mmol) in THF (10 ml) for 10 minutes at −20° C. under stirring. The mixture was stirred for an hour raising the temperature from −20° C. to −10° C. Benzylamine (6.1 g, 57 mmol) and triacetoxy sodium borohydride (24.2 g, 114 mmol) were added to the reaction mixture successively at −10° C., and the mixture was stirred for 19 hours raising the temperature to room temperature. An aqueous solution of 2N sodium hydroxide (100 ml) was added to the reaction mixture under ice cooling and the mixture was stirred for 30 minutes, and extracted with diethyl ether (100 ml, 80 ml×2). The organic phase was dried over magnesium sulfate (anhydrous), then concentrated under reduced pressure. The residue was dissolved in 2-propanol (50 ml) and to the solution was added a solution of 4N hydrogen chloride in ethyl acetate (50 ml) with stirring. The resulting precipitate was collected by filtration. The precipitate was washed with 2-propanol (20 ml×3) and dried under reduced pressure to give the title compound as a white crystal (6.5 g).

reactant | acrolein | 57 mmol, 3.2 g | C(=O)C=C | C3H4O
reactant | 4-benzylpiperidine | 57 mmol, 10.0 g | C(C1=CC=CC=C1)C1CCNCC1 | C12H17N
reactant | Benzylamine | 57 mmol, 6.1 g | C(C1=CC=CC=C1)N | C7H9N
reactant | sodium hydroxide | 2N, 100 ml | [OH-].[Na+]
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
catalyst | DBU | 0.57 mmol, 85 μl | C1CCC2=NCCCN2CC1 | C9H16N2
product | N-[3-(4-Benzyl-1-piperidinyl)propyl]benzylamine | 6.5 g | C(C1=CC=CC=C1)C1CCN(CC1)CCCNCC1=CC=CC=C1 | C22H30N2
